US08193378B2
To a solution of 5-({[2′-fluoro-2-(trifluoromethyl)biphenyl-4-yl]oxy}methyl)-2-(hydroxymethyl)phenol (520 mg) in chloroform (10 mL) was added manganese dioxide (1 g) at room temperature. The reaction liquid was stirred at room temperature for 16 hours, and then filtered through celite. The filtrate was concentrated under reduced pressure and purified by silica gel column chromatography (hexane:EtOAc=95:5 to 80:20) to obtain 4-({[2′-fluoro-2-(trifluoromethyl)biphenyl-4-yl]oxy}methyl)-2-hydroxybenzaldehyde (180 mg) as a white solid.

reactant | 5-({[2′-fluoro-2-(trifluoromethyl)biphenyl-4-yl]oxy}methyl)-2-(hydroxymethyl)phenol | 520 mg | FC1=C(C=CC=C1)C1=C(C=C(C=C1)OCC=1C=CC(=C(C1)O)CO)C(F)(F)F | C21H16F4O3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 1 g | [O-2].[O-2].[Mn+4]
product | 4-({[2′-fluoro-2-(trifluoromethyl)biphenyl-4-yl]oxy}methyl)-2-hydroxybenzaldehyde | 180 mg | FC1=C(C=CC=C1)C1=C(C=C(C=C1)OCC1=CC(=C(C=O)C=C1)O)C(F)(F)F | C21H14F4O3
